US05376634
To a suspension of lithium aluminum hydride (4.05 g) in tetrahydrofuran (475 ml) was added dropwise a solution of 4-octyloxybenzaldehyde (25 g) in tetrahydrofuran (25 ml) at 55°~60° C. The reaction mixture was stirred under reflux for 1 hour, and thereto was added sodium fluoride (35.84 g) and water (11.52 ml) under ice-cooling. The mixture was stirred for 30 minutes, and filtrated. The filtrate was evaporated in vacuo to give 4-octyloxybenzyl alcohol (25.1 g) as crystals.

reactant | lithium aluminum hydride | 4.05 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-octyloxybenzaldehyde | 25 g | C(CCCCCCC)OC1=CC=C(C=O)C=C1 | C15H22O2
reactant | sodium fluoride | 35.84 g | [F-].[Na+]
reactant | water | 11.52 ml | O | H2O
solvent | tetrahydrofuran | 475 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-octyloxybenzyl alcohol | 25.1 g | C(CCCCCCC)OC1=CC=C(CO)C=C1 | C15H24O2
